US08614238B2
N-[4-(1H-Benzoimidazol-2-yl)-phenyl]-N-methyl-amine
5.00 g (46.2 mmol) o-Phenylene diamine and 6.99 g (46.2 mmol) 4-(methylamino)benzoic acid are stirred in 40.0 g polyphosphoric acid at 210° C. for 4 hours. The mixture is cooled to 80° C., poured into water and stirred over night at RT. The mixture is alkalinized with sodium hydroxide solution. The precipitate is filtered off and washed with water. The product is dried in vacuo at 70° C.

reactant | o-Phenylene diamine | 46.2 mmol, 5.00 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 4-(methylamino)benzoic acid | 46.2 mmol, 6.99 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | N-[4-(1H-Benzoimidazol-2-yl)-phenyl]-N-methyl-amine | N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)NC | C14H13N3
